US07732446B1
As described in Example 1, 94 mg of [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid was coupled with 1,2,3,4-tetrahydro-isoquinoline to give 94 mg of {4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester. MS: APCI (M+H) calc'd for C28H33N3O5+H 492.6; found 492.0.

reactant | [1-(tert-butoxycarbonylamino-methyl)-6,7-dimethoxy-isoquinolin-4-yl]-acetic acid | 94 mg | C(C)(C)(C)OC(=O)NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)O | C19H24N2O6
reactant | 1,2,3,4-tetrahydro-isoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | {4-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-2-oxo-ethyl]-6,7-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 94 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)CC(=O)N1CC2=CC=CC=C2CC1)=O | C28H33N3O5
